US04766127
2-(3-pyridylmethyl)naphthalene-6-carboxylic acid is dissolved in methanol and to this solution a stoichiometric amount of sodium bicarbonate dissolved in water is added. The mixture is stirred at room temperature for one hour, azeotroped with benzene twice and dried under high vacuum for 3 hours. The solid material is recrystallized from methanol and diethyl ether mixture and dried in vacuum at room temperature overnight to give sodium 2-(3-pyridylmethyl)naphthalene-6-carboxylate.

reactant | 2-(3-pyridylmethyl)naphthalene-6-carboxylic acid | N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C(=O)O | C17H13NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | sodium 2-(3-pyridylmethyl)naphthalene-6-carboxylate | N1=CC(=CC=C1)CC1=CC2=CC=C(C=C2C=C1)C(=O)[O-].[Na+] | InChI=1S/C17H13NO2.Na/c19-17(20)16-6-5-14-9-12(3-4-15(14)10-16)8-13-2-1-7-18-11-13;/h1-7,9-11H,8H2,(H,19,20);/q;+1/p-1
